US03984467
Following a procedure similar to that described in Example 42 but using 3.4 g. sodium in 300 ml. acetone, 24.7 g. heptanamidine hydrochloride, and 25.9 g. 2-chlorophenyl isothiocyanate (b.p. 70°-74°C./0.5-1.0 mm.; prepared from 2-chloroaniline) in 125 ml. dry acetone there was obtained 1-(2-chlorophenyl)-3-(heptanimidoyl)-2-thiourea, m.p. 75°-77°C. (from benzene-n-hexane); hydrochloride (33.5 g.), m.p. 158°-160°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 2-chlorophenyl isothiocyanate | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | benzene n-hexane | C1=CC=CC=C1.CCCCCC
product | 1-(2-chlorophenyl)-3-(heptanimidoyl)-2-thiourea | ClC1=C(C=CC=C1)NC(=S)NC(CCCCCC)=N | C14H20ClN3S
